US06555577B1
(E)-Ethyl 3-(2′,3′-Dichloro-biphenyl-4-yl)-but-2-enoate (1.07 g, 73% yield) was prepared from 2,3-dichlorophenylboronic acid (1.26 g, 6.60 mmol) and (E)-ethyl 3-(4-bromophenyl)-but-2-enoate (1.0 g, 4.40 mmol) by a procedure analogous to that described in example 52a.

reactant | 2,3-dichlorophenylboronic acid | 6.60 mmol, 1.26 g | ClC1=C(C=CC=C1Cl)B(O)O | C6H5BCl2O2
reactant | (E)-ethyl 3-(4-bromophenyl)-but-2-enoate | 4.40 mmol, 1.0 g | BrC1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C12H13BrO2
product | (E)-Ethyl 3-(2′,3′-Dichloro-biphenyl-4-yl)-but-2-enoate | 1.07 g, 73% yield | ClC1=C(C=CC=C1Cl)C1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C18H16Cl2O2
